US04772704
5-Amino-2-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone
A mixture of 5-nitro-2-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone (5.32 g; 12.96 mmoles) and a catalytic amount of Raney nickel No. 28 (approximately 3.5 cm3) in 300 ml of methanol was hydrogenated in a Parr apparatus at 50 psi for 3.0 hours. The reaction mixture was filtered, treated with 1.55N methanolic HCl (24.0 ml; 37.2 meq.) and evaporated under reduced pressure. The residue was placed on 180 g of silica gel and chromatographed by flash chromatography using a gradient elution of methanol-methylene chloride. The appropriate fractions were combined, evaporated and then rechromatographed using a gradient elution of CH3CN:CH3OH:CH2Cl2 from 7:14:86 to 8:18:80. The appropriate fractions were combined and treated with 20 ml of 1.55N methanolic HCl, and then evaporated under reduced pressure and dried under high vacuum at 56° C. to give 2.35 g of the title compound as a trihydrochloride, mp 150°-155° C.

reactant | 5-nitro-2-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone | 12.96 mmoles, 5.32 g | [N+](=O)([O-])C=1C(NC(=NC1)NCCSCC1=CSC(=C1)CN1CCCCC1)=O | C17H23N5O3S2
reactant | HCl | 1.55N, 24.0 ml, 37.2 meq. | Cl | ClH
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 300 ml | CO | CH4O
product | 5-Amino-2-{2-[(5-piperidinomethyl-3-thienyl)methylthio]ethylamino}-4(3H)-pyrimidone | 2.35 g | NC=1C(NC(=NC1)NCCSCC1=CSC(=C1)CN1CCCCC1)=O | C17H25N5OS2
